US06451816B1
4-{1-[bis(4-fluorophenyl)-methyl]-piperidin-4-yl)-butane-1-ol
20 g (103 mmol) 4-piperidin-4-yl-butan-1-ol hydrochloride are suspended in 70 ml 3,4-dihydro-2H-pyrane and added to 1.0 g pyridinium tosylate. The mixture is stirred for two days at RT. After addition of 5 g potassium carbonate, this is concentrated under vacuum to dryness. The resulting 4-[4-tetrahydropyran-2-yloxy)-butyl)-piperidine is dissolved without further purification in 100 ml acetonitrile and added to 25.1 g (105 mmol) bis-(4-fluorophenyl)-chloromethane, 30 g (217 mmol) potassium carbonate and 5.0 g (30 mmol) potassium iodide and stirred for four days at RT. The mixture is filtered and the solvent is removed under vacuum. The resulting 1-[bis-(4-fluorophenyl)-methyl]-4-[4-(tetrahydropyran-2-yloxy)-butyl]-piperldine is dissolved without further purification in 150 ml methanol, added to enough 6 M methanolic hydrochloric acid until the pH of the mixture is acidic and left to stand for two days at RT. Subsequently, the solvent is drawn off under vacuum and the residue is dispersed between sodium hydroxide solution and acetic acid ethyl ester. The aqueous solution is extracted three times with acetic acid. The combined organic phases are dried over sodium sulfate and the residue is chromatographically purified over silica gel with CH2Cl2/CH3OH(99/1 to 94/4). Yield: 23.8 g (63%).

reactant | 4-piperidin-4-yl-butan-1-ol hydrochloride | 103 mmol, 20 g | Cl.N1CCC(CC1)CCCCO
reactant | pyridinium tosylate | 1.0 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1.[NH+]1=CC=CC=C1
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | bis-(4-fluorophenyl)-chloromethane | 105 mmol, 25.1 g | FC1=CC=C(C=C1)C(Cl)C1=CC=C(C=C1)F | C13H9ClF2
reactant | potassium carbonate | 217 mmol, 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 30 mmol, 5.0 g | [I-].[K+]
solvent | 3,4-dihydro-2H-pyrane | 70 ml | O1CCCC=C1 | C5H8O
product | 4-{1-[bis(4-fluorophenyl)-methyl]-piperidin-4-yl)-butane-1-ol | FC1=CC=C(C=C1)C(N1CCC(CC1)CCCCO)C1=CC=C(C=C1)F | C22H27F2NO
